US05563141
Sodium hydride (300 mg of a 60% suspension) was added to a stirred solution of 4-methylphenylsulphonamide and the mixture stirred at room temperature until effervescence had ceased. N-benzyloxycarbonylpiperidine-4-methanol mesylate (1.09 g) was added and the mixture heated at 100° C. for 7 hours. After cooling to room temperature it was diluted with water (200 ml) and extracted with ether (4×40 ml); the extracts were combined, washed with water (2×) and brine, dried (MgSO4) and evaporated to yield N-(1-benzyloxycarbonylpiperidin-4-ylmethyl)-4-methylphenylsulphonamide NMR (d6DMSO): δ0.8-1.1 (2H,m); 1.5-1.7 (3H,m); 2.35 (3H,s); 2.6 (2H,t); 2.7-2.9 (2H,m); 4.0 (2H,d); 5.0 (2H,s); 7.2-7.5 (7H,m); 7.55 (1H,t); 7.7 (2H,d); m/e 403 (M+H)+.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-methylphenylsulphonamide | CC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO2S
reactant | N-benzyloxycarbonylpiperidine-4-methanol mesylate | 1.09 g | S(C)(=O)(=O)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H21NO5S
solvent | water | 200 ml | O | H2O
product | N-(1-benzyloxycarbonylpiperidin-4-ylmethyl)-4-methylphenylsulphonamide | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNS(=O)(=O)C1=CC=C(C=C1)C | C21H26N2O4S
